US04242518
15 parts by volume of a Cl2 /CCl4 solution (7.1 parts of chlorine in 100 parts of CCl4) are added in the course of 10 minutes to a solution, cooled to 0° C., of 1.74 parts of 3-methoxy-dihydrothiophene-4-carboxylic acid methyl ester in 15 parts by volume of CCl4. The mixture is kept at 0° C. for one hour. The end product is isolated from the reaction mixture by the method described in Example 1c. 1.6 parts (93% of theory) of 3-methoxythiophene-4-carboxylic acid methyl ester of melting point 66°-67° C. are obtained.

reactant | Cl2 CCl4 | ClCl.C(Cl)(Cl)(Cl)Cl
reactant | 3-methoxy-dihydrothiophene-4-carboxylic acid methyl ester | COC(=O)C=1C(CSC1)OC | C7H10O3S
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-methoxythiophene-4-carboxylic acid methyl ester | 93% | COC(=O)C=1C(=CSC1)OC | C7H8O3S
